US07718652B2
In an analogous manner to Example 11 step 5, 3-(4-bromobutyl)-1-(2-fluorophenyl)-3,4-dihydro-1H-2,1,3-benzothiadiazine 2,2-dioxide (0.11 g, 0.26 mmol) was reacted to cyclopropylamine and then treated with HCl to provide N-{4-[1-(2-fluorophenyl)-2,2-dioxido-1,4-dihydro-3H-2,1,3-benzothiadiazin-3-yl]butyl}cyclopropanamine (0.099 g, 92%) as a white solid:

reactant | 3-(4-bromobutyl)-1-(2-fluorophenyl)-3,4-dihydro-1H-2,1,3-benzothiadiazine 2,2-dioxide | 0.26 mmol, 0.11 g | BrCCCCN1S(N(C2=C(C1)C=CC=C2)C2=C(C=CC=C2)F)(=O)=O | C17H18BrFN2O2S
reactant | cyclopropylamine | C1(CC1)N | C3H7N
reactant | HCl | Cl | ClH
product | N-{4-[1-(2-fluorophenyl)-2,2-dioxido-1,4-dihydro-3H-2,1,3-benzothiadiazin-3-yl]butyl}cyclopropanamine | 0.099 g, 92% | FC1=C(C=CC=C1)N1S(N(CC2=C1C=CC=C2)CCCCNC2CC2)(=O)=O | C20H24FN3O2S
